US04262129
EXAMPLE 8: PREPARATION OF DI-ISOPROPYL 3-THIENYLMALONATE
In the way described before 18.8 g (=0.10 mole) di-isopropyl malonate were mono-deprotonated with 0.10 mole NaH in 112.5 ml quinoline. After the liberation of hydrogen gas had been ceased 16.8 g (=0.080 mole) 3-iodothiophene and 11.5 g (=0.080 mole) copper (I) bromide were added. The resultant mixture was stirred under N2 atmosphere at a temperature of 100° C. during a period of 5 hours and subsequently poured out into an icy-cold mixture of 112 ml water and 112 ml concentrated HCl. The precipitated copper salts were collected on a Buchner funnel and washed with chloroform. The filtrate was extracted with chloroform too. The two chloroform layers were joined and dried over magnesium sulphate. After removal of the solvent a residue remained which according to GLC analysis contained 0.44 g 3-iodothiophene and 12 g di-isopropyl 3-thienylmalonate (=0.044 mole or 55% calculated to the 3-iodothiophene started from). A pure sample was obtained by chromatography over a column filled with silica gel using toluene as elution agent. The product so obtained could be crystallized at -18° C. from petroleum ether 40-60; at room temperature, however, it is a liquid. Identification of the purified product occurred through NMR and IR spectroscopy.

reactant | di-isopropyl malonate | 0.10 mole, 18.8 g | C(CC(=O)OC(C)C)(=O)OC(C)C | C9H16O4
reactant | NaH | 0.10 mole | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-iodothiophene | 0.080 mole, 16.8 g | IC1=CSC=C1 | C4H3IS
reactant | HCl | 112 ml | Cl | ClH
solvent | quinoline | 112.5 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper (I) bromide | 0.080 mole, 11.5 g | [Cu]Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 112 ml | O | H2O
product | DI-ISOPROPYL 3-THIENYLMALONATE | S1C=C(C=C1)C(C(=O)OC(C)C)C(=O)OC(C)C | C13H18O4S
